### PR TITLE
feat: add `isPrincipalIdealRing_of_isPrincipal_of_lt_or_isPrincipal_of_mem_primesOver_of_mem_Icc`

### PR DESCRIPTION
**Pull request by riccardobrasca**
The standard technique to prove that `𝓞 K` is principal in the Galois case.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 1]
```diff
@@ -155,6 +168,34 @@ theorem isPrincipalIdealRing_of_isPrincipal_of_pow_inertiaDeg_le_of_mem_primesOv
...
+    (fun p hpmem hp P hP hple ↦ ?_)
+  obtain ⟨Q, hQ, H⟩ := h p hpmem hp
+  have := hP.1; have := hP.2; have := hQ.1; have := hQ.2
+  have := (isPrime_of_prime (prime_span_singleton_iff.mpr (prime_iff_prime_int.mp hp))).isMaximal
+    (by simp [hp.ne_zero])
+  by_cases h : ⌊(M K)⌋₊ < p ^ ((span ({↑p} : Set ℤ)).inertiaDeg P)
+  · linarith
+  rw [inertiaDeg_eq_of_isGalois _ Q P ℚ K] at H
+  obtain ⟨σ, rfl⟩ := exists_map_eq_of_isGalois (span ({↑p} : Set ℤ)) Q P ℚ K
+  exact (H.resolve_left h).map_ringHom σ
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:197]:
```suggestion
refine isPrincipalIdealRing_of_isPrincipal_of_pow_le_of_mem_primesOver_of_mem_Icc
    (fun p hpmem hp P ⟨hP1, hP2⟩ hple ↦ ?_)
  obtain ⟨Q, ⟨hQ1, hQ2⟩, H⟩ := h p hpmem hp
  have := (isPrime_of_prime (prime_span_singleton_iff.mpr (prime_iff_prime_int.mp hp))).isMaximal
    (by simp [hp.ne_zero])
  by_cases h : ⌊(M K)⌋₊ < p ^ ((span ({↑p} : Set ℤ)).inertiaDeg P)
  · linarith
  rw [inertiaDeg_eq_of_isGalois _ Q P ℚ K] at H
  obtain ⟨σ, rfl⟩ := exists_map_eq_of_isGalois (span ({↑p} : Set ℤ)) Q P ℚ K
  exact (H.resolve_left h).map_ringHom σ
```

**Review by faenuccio — COMMENTED** [review]
LGTM. I left a couple of comments, I just wonder if it is not worth it adding a corollary to the final result replacing the inertia degree with the degree of the field extension.

**Comment by faenuccio** [comment]
> > LGTM. I left a couple of comments, I just wonder if it is not worth it adding a corollary to the final result replacing the inertia degree with the degree of the field extension.
> 
> This is already there, since it is the definition of `[inertiaDeg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.inertiaDeg)`.

What I mean is to add a lemma that uses that the inertia degree is less than the degree (or perhaps I do not understand your answer).

**Comment by riccardobrasca** [comment]
> > > LGTM. I left a couple of comments, I just wonder if it is not worth it adding a corollary to the final result replacing the inertia degree with the degree of the field extension.
> > 
> > 
> > This is already there, since it is the definition of `[inertiaDeg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.inertiaDeg)`.
> 
> What I mean is to add a lemma that uses that the inertia degree is less than the degree (or perhaps I do not understand your answer).

Ah, you mean the degree of the extension in char 0. I don't think it is worth, this is still quite annoying to be used in practice: soon I will reformulate it using the degree of a factor of the minpoly mod p, but it needs more work.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by riccardobrasca** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26403
